US06579879B2
Step D: 6-(5-Fluoro-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-3-one.
A mixture of 3-methoxy-6-(5-fluoro-3-methyl-benzofuran-2-sulfonyl)-pyridazine (2.4 mmol, 775 mg), conc. HCl (1.5 mL), and dioxane (3 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. The dried residue was triturated with water (10 mL), and filtered to obtain the desired product, 6-(5-fluoro-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-3-one (84%, 620 mg); mp 232° C.-233° C.

reactant | 3-methoxy-6-(5-fluoro-3-methyl-benzofuran-2-sulfonyl)-pyridazine | 2.4 mmol, 775 mg | COC=1N=NC(=CC1)S(=O)(=O)C=1OC2=C(C1C)C=C(C=C2)F | C14H11FN2O4S
reactant | HCl | 1.5 mL | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(5-fluoro-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-3-one | 620 mg, 84% | FC=1C=CC2=C(C(=C(O2)S(=O)(=O)C=2C=CC(NN2)=O)C)C1 | C13H9FN2O4S
